US05607934
0.80 g of 10% palladium-carbon was added to 30 ml of a solution of 1.56 g of (3RS,6SR)-3-(benzothiazol-2-yl)carbamoyl-3-benzyl-1-benzyloxy-6-isobutylpipera- zine-2,5-dione in dioxane. The mixture was stirred at room temperature for 4 hours in a hydrogen current. The reaction mixture was filtered to remove the catalyst. The filtrate was subjected to distillation to remove the solvent. The resulting light brown oily substance was recrystallized using dichloromethane, to obtain 0.56 g of (3RS,6SR)-3-(benzothiazol-2-yl)carbamoyl-3-benzyl-1-hydroxy-6-isobutylpiperazine-2,5-dione.

reactant | (3RS,6SR)-3-(benzothiazol-2-yl)carbamoyl-3-benzyl-1-benzyloxy-6-isobutylpipera- zine-2,5-dione | 1.56 g | S1C(=NC2=C1C=CC=C2)NC(=O)C2(C(N(C(C(N2)=O)CC(C)C)OCC2=CC=CC=C2)=O)CC2=CC=CC=C2 | C30H30N4O4S
reactant | hydrogen | [H][H] | H2
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | palladium-carbon | 0.80 g | [C].[Pd]
product | (3RS,6SR)-3-(benzothiazol-2-yl)carbamoyl-3-benzyl-1-hydroxy-6-isobutylpiperazine-2,5-dione | 0.56 g | S1C(=NC2=C1C=CC=C2)NC(=O)C2(C(N(C(C(N2)=O)CC(C)C)O)=O)CC2=CC=CC=C2 | C23H24N4O4S
